US07847048B2
Synthesis of Pyrrole-3-(triethoxysilyl)-1-propaneamine:
(Pyrrole-TEOS) To a 500 mL 3-neck round bottom flask equipped with a stirbar was added 30.8 g (10× the amount of water generated by the reaction by weight) of 5 Å molecular sieves. The flask was then equipped with a reflux condenser and the remaining necks were sealed with rubber septa. The reaction flask was evacuated and backfilled with dry nitrogen three times. After the final backfill cycle, 18.9 g (85.4 mmol) of 3-aminopropyltriethoxysilane was added to the flask, along with 40 mL of anhydrous toluene. With rapid stirring, 10.8 mL (89.7 mmol) of 2,5-hexanedione was added dropwise via syringe. The contents were heated to reflux and stirred under nitrogen overnight. After an overnight stir, the contents were filtered. The filtrate was filtered a second time and collected. The collected filtrate was concentrated via rotary evaporation to yield an orange liquid (23.7 g, 94%). This solid was isolated in >98% purity, as characterized by 1H NMR spectroscopy and was not purified further. 1H NMR (CDCl3, 400 MHz): 0.65 (m, 2H); 1.23 (m, 9H); 1.75 (m, 2H); 2.23 (s, 6H) 3.77 (m, 2H); 3.84 (m, 6H); 5.76 (s, 2H). 13C NMR (CDCl3, 100 MHz): 7.64; 12.43; 18.26; 24.38; 45.99; 58.42; 104.91; 127.28.

reactant | Pyrrole TEOS | N1C=CC=C1.CCO[Si](OCC)(OCC)OCC
reactant | water | O | H2O
reactant | 3-aminopropyltriethoxysilane | 85.4 mmol, 18.9 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | 2,5-hexanedione | 89.7 mmol, 10.8 mL | CC(CCC(C)=O)=O | C6H10O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | Pyrrole 3-(triethoxysilyl)-1-propaneamine | 23.7 g, 94% | N1C=CC=C1.C(C)O[Si](CCCN)(OCC)OCC | InChI=1S/C9H23NO3Si.C4H5N/c1-4-11-14(12-5-2,13-6-3)9-7-8-10;1-2-4-5-3-1/h4-10H2,1-3H3;1-5H
